US08076491B2
methyl 2-(3-hydroxybenzylamino)acetate
Glycine methyl ester (500 mg, 4 mmol) and 3-hydroxybenzaldehyde (480 mg, 4 mmol) were dissolved in 5 mL THF/Methanol (1:1). Acetic acid (240 mg, 4 mmol), and 1M sodium cyanoborohydride in THF (4.8 mL, 4.8 mmol) were slowly added into the reaction. The reaction was irradiated in the microwave reactor at 85° C. for 15 minutes, cooled to room temperature and the salts were removed by filtration. The clear solution was concentrated and the residue was purified by reversed phase HPLC (10 to 95% Acetonitrile in H2O:25 minute gradient) to give the title compound as a clear gel. Yield 45%. MS M+H calculated 196.1; found 196.1.

reactant | Glycine methyl ester | 4 mmol, 500 mg | COC(CN)=O | C3H7NO2
reactant | 3-hydroxybenzaldehyde | 4 mmol, 480 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | Acetic acid | 4 mmol, 240 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1M | C(#N)[BH3-].[Na+]
reactant | THF | 4.8 mmol, 4.8 mL | C1CCOC1 | C4H8O
solvent | THF Methanol | 5 mL | C1CCOC1.CO
product | methyl 2-(3-hydroxybenzylamino)acetate | Yield 45% | OC=1C=C(CNCC(=O)OC)C=CC1 | C10H13NO3
